US07244722B2
3-(1-Piperazinyl)-1-[2-(2,3,5,6-tetrafluorophenoxy)ethyl]-2(1H)-pyrazinone, Hydrochloride
2,3,5,6-Tetrafluorophenol (556 mg, 3.35 mmol), 2-[3-(4-tert-butoxycarbonyl-1-piperazinyl)-pyrazinyloxy]ethanol (1.01 g, 3.10 mmol) and triphenylphosphine (813 mg, 3.10 mmol) were dissolved in THF (10 mL) and TMAD (533 mg, 3.10 mmol) was added in three portions over 50 min. The reaction mixture was stirred at room temperature overnight. A small amount of a white precipitate was filtered off. The filtrate was evaporated, redissolved in ether and filtered again. The filtrate was washed with 5% NaHCO3 and brine, concentrated in vacuo, and the residue purified by flash chromatography using EtOAc/toluene (3:7 followed by 1:4) as eluent. This gave 584 mg (40%) of the title compound as its N-t-BOC derivative. The N-t-BOC intermediate (568 mg, 1.20 mmol) was treated with TFA/dichloromethane/H2O (42:53:5; 3.1 mL) at room temperature for 50 min with stirring. The solution was evaporated and the residue precipitated with MeOH-ether. This product was dissolved in 50% aqueous MeOH and passed through an anion exchange resin (Dowex-1 X8, Cl−, 4 g) eluting with 50% aqueous MeOH. Evaporation of the solvent in vacuum gave the title compound. Yield: 453 mg (92%); mp 196-198° C. (dec.); MS-EI m/z 372 (M)+; HRMS m/z calcd for C16H16F4N4O2 (M)+ 372.1209, found 372.1196. Anal. (C16H16F4N4O2.HCl) C, H, N.

reactant | 2,3,5,6-Tetrafluorophenol | 3.35 mmol, 556 mg | FC1=C(C(=C(C=C1F)F)F)O | C6H2F4O
reactant | 2-[3-(4-tert-butoxycarbonyl-1-piperazinyl)-pyrazinyloxy]ethanol | 3.10 mmol, 1.01 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C(=NC=CN1)OCCO | C15H24N4O4
reactant | triphenylphosphine | 3.10 mmol, 813 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | TMAD | 3.10 mmol, 533 mg | CN(C)C(=O)/N=N/C(=O)N(C)C | C6H12N4O2
reactant | TFA dichloromethane H2O | 3.1 mL | C(=O)(C(F)(F)F)O.ClCCl.O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-(1-Piperazinyl)-1-[2-(2,3,5,6-tetrafluorophenoxy)ethyl]-2(1H)-pyrazinone, Hydrochloride | Cl.N1(CCNCC1)C=1C(N(C=CN1)CCOC1=C(C(=CC(=C1F)F)F)F)=O | InChI=1S/C16H16F4N4O2.ClH/c17-10-9-11(18)13(20)14(12(10)19)26-8-7-24-6-3-22-15(16(24)25)23-4-1-21-2-5-23;/h3,6,9,21H,1-2,4-5,7-8H2;1H
